US09102662B2
Preparation of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-2-nitro-4-(piperidin-1-ylmethyl)benzamide
2-Nitro-4-piperidin-1-ylmethyl-benzoic acid hydrochloride (440 mg, 1.46 mmol) was treated with thionyl chloride (5 mL) and refluxed for 1 hour. Excess of reagent was removed by evaporation followed by evaporation from toluene (2×5 mL). The solid was further died under vacuum. The acid chloride was treated with dry pyridine (7 mL), cooled to 4° C. and added with 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine (315 mg, 1.22 mmol) in dry pyridine (3 mL) under a nitrogen atmosphere, with stirring. After stirring for a few hours the reaction was left at 0° C. over-night. EtOAc (50 mL) and water (50 mL) were added, pH was adjusted to 9 with concentrated NH4OH. The organic layer was separated, dried over sodium sulphate, evaporated to dryness and purified over silica gel (DCM: MeOH 95:5) affording 266 mg of title compound in 43% yield.

reactant | 2-Nitro-4-piperidin-1-ylmethyl-benzoic acid hydrochloride | 1.46 mmol, 440 mg | Cl.[N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)CN1CCCCC1
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine | 1.22 mmol, 315 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)N)C=C(C1)F | C14H11F2N3
reactant | NH4OH | [NH4+].[OH-]
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 50 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-2-nitro-4-(piperidin-1-ylmethyl)benzamide | 266 mg, 43% yield | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)CN2CCCCC2)[N+](=O)[O-])=O)C=C(C1)F | C27H25F2N5O3
